US06723722B1
A solution of 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone (3.7 g) and 10% Pd/C (800 mg) in methanol (150 ml) was stirred at room temperature for 15 hours under a hydrogen atmosphere. The catalyst was filtered off and the reaction mixture was concentrated to obtain 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone.

reactant | 4-benzyloxycarbonyl-1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone | 3.7 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H32N4O5
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | 1-[1-(tert-butoxycarbonyl)-4-piperidinylamino]-2-piperazinone | C(C)(C)(C)OC(=O)N1CCC(CC1)NN1C(CNCC1)=O | C14H26N4O3
